US09079902B2
A round bottom flask was charged with tert-butyl 4-(2-bromo-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (2.32 g, 5.71 mmol), bis(pinacolato)diboron (2.90 g, 11.42 mmol), potassium phosphate (3.64 g, 17.13 mmol), pd2(dba)3 (0.261 g, 0.286 mmol), and X-Phos (0.272 g, 0.571 mmol). 1,4-Dioxane (28.6 ml) was added, the flask was fitted with a reflux condenser, and the reaction was heated to 90° C. and stirred for four hours. The reaction was cooled to room temperature, filtered through diatomaceous earth, and washed with ethyl acetate. The filtrate was concentrated and purified via column chromatography (RediSep Gold 80 g silica gel column (Teledyne Isco, Lincoln, Nebr.), gradient elution 0 to 25% ether:heptane) to afford tert-butyl 4-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate as a yellow oil. m/z (ESI) 354.4 (M+H)+.

reactant | tert-butyl 4-(2-bromo-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.71 mmol, 2.32 g | BrC1=C(C=C(C=C1)C(F)(F)F)C1=CCN(CC1)C(=O)OC(C)(C)C | C17H19BrF3NO2
reactant | bis(pinacolato)diboron | 11.42 mmol, 2.90 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium phosphate | 17.13 mmol, 3.64 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | X-Phos | 0.571 mmol, 0.272 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | pd2(dba)3 | 0.286 mmol, 0.261 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-Dioxane | 28.6 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | CC1(OB(OC1(C)C)C1=C(C=C(C=C1)C(F)(F)F)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C23H31BF3NO4
